US06884782B2
To a solution of 2-aminobenzyl alcohol (7.12 g, 58 mmol) in methylene chloride (200 mL) at −10° C., 2,4,4,6-tetrabromo-2,5-cyclohexadien-1-one (25 g, 61 mmol) was added in portions. During the addition, the temperature of the reaction mixture was maintained between −10° C. and 0° C. The reaction mixture was warmed up to room temperature and then extracted with 2 N sodium hydroxide solution (2×50 mL). The organic layer was washed with water and dried over MgSO4, filtered and concentrated in vacuo to afford 2-amino-5-bromobenzylalcohol as a yellow solid which was used without further purification.

reactant | 2-aminobenzyl alcohol | 58 mmol, 7.12 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | 2,4,4,6-tetrabromo-2,5-cyclohexadien-1-one | 61 mmol, 25 g | BrC=1C(C(=CC(C1)(Br)Br)Br)=O | C6H2Br4O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-5-bromobenzylalcohol | NC1=C(CO)C=C(C=C1)Br | C7H8BrNO
